US04686221
1-Cyclopropyl-6,8-difluoro-1,4-dihydro-7-(4-hydroxypiperazin-1-yl)-4-oxoquinoline-3-carboxylic acid hydrochloride (1.00 g) as prepared above is suspended in water (40 ml). To the suspension is added triethylamine and then the pH of the solution is adjusted to 7.0 with 1N HCl. The resulting precipitate is filtered and washed with water to yield crude 1-cyclopropyl-6,8-difluoro-1,4-dihydro-7-(4-hydroxypiperazin-1-yl)-4-oxoquinoline-3-carboxylic acid (0.85 g) as a colorless powder. The crude product is recrystallized from a mixture of dimethylformamide and water to afford 1-cyclopropyl-6,8-difluoro-1,4-dihydro-7-(4-hydroxypiperazin-1-yl)-4-oxoquinoline-3-carboxylic acid (0.57 g) as pale yellow prisms. The melting point, infrared and nuclear magnetic resonance spectra of this product are consistent with those of 1-cyclopropyl-6,8-difluoro-1,4-dihydro-7-(4-hydroxypiperazin-1-yl)-4-oxoquinoline-3-carboxylic acid obtained in Example 5.

reactant | 1-Cyclopropyl-6,8-difluoro-1,4-dihydro-7-(4-hydroxypiperazin-1-yl)-4-oxoquinoline-3-carboxylic acid hydrochloride | 1.00 g | Cl.C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1CCN(CC1)O)F)=O)C(=O)O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | HCl | 1N | Cl | ClH
solvent | water | 40 ml | O | H2O
product | 1-cyclopropyl-6,8-difluoro-1,4-dihydro-7-(4-hydroxypiperazin-1-yl)-4-oxoquinoline-3-carboxylic acid | 0.57 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1CCN(CC1)O)F)=O)C(=O)O | C17H17F2N3O4
